US04775671
15 g (43.8 mmol) of 1-[[7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepin-3-yl]carbonyl]imidazole, 6.60 g (65.8 mmol) of cyclopropanecarboxamidoxime and 100 ml of N,N-dimethylformamide are stirred at 70° for 1.5 hours, whereupon the mixture is evaporated to dryness, 100 ml of glacial acetic acid are added to the residue and the solution is heated to 120° for 1.5 hours. The solution is then evaporated and the residue is partitioned between methylene chloride and saturated sodium bicarbonate solution. The organic phase is separated, dried over magnesium sulphate and evaporated. By recrystallization of the residue from methylene chloride and ethyl acetate there is obtained 7-chloro-3-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-5,6-dihydro-5-methyl-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 183°-184°.

reactant | 1-[[7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepin-3-yl]carbonyl]imidazole | 43.8 mmol, 15 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C(=O)N1C=NC=C1)C)=O | C16H12ClN5O2
reactant | cyclopropanecarboxamidoxime | 65.8 mmol, 6.60 g | C1(CC1)C(N)=NO | C4H8N2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 7-chloro-3-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-5,6-dihydro-5-methyl-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C1=NC(=NO1)C1CC1)C)=O | C17H14ClN5O2
